US07253286B2
N-(4-Fluorophenyl)-N′-{4-[(7-oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]phenyl}urea
N-(4-Fluorophenyl)-N′-{4-[(7-oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]aniline (30 mg), p-fluorophenyl isocyanate (0.016 ml) and dimethylformamide (6 ml) were stirred at 70° C. until disappearance of the starting materials. After returning the reaction solution to room temperature, water was added dropwise and the precipitated solid was filtered out to obtain 22 mg of a light brown solid.

reactant | 4-[(7-oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]aniline | 30 mg | O=C1C=CC=2C(=CC=NC2N1)OC1=CC=C(N)C=C1 | C14H11N3O2
reactant | p-fluorophenyl isocyanate | 0.016 ml | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(4-Fluorophenyl)-N′-{4-[(7-oxo-7,8-dihydro[1,8]naphthyridin-4-yl)oxy]phenyl}urea | 22 mg | FC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC=2NC(C=CC12)=O | C21H15FN4O3
